US04550105
Under ice-cooling and stirring, 6 ml of an aqueous solution containing 288 mg of cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester and 561 mg of sodium hydrogen carbonate is added to a suspension of 1.18 g of 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetyl chloride (syn isomer) in 10 ml of tetrahydrofuran. After the mixture is stirred for 2 hours at room temperature, the solvent is distilled off in vacuo to leave a residue, which solidifies. Water is added to the solid, followed by filtration, and the collected crystals are washed successively with water and ethanol to give cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-4-carboylic acid methyl ester (syn isomer), m.p. 270°-275° C. (dec.).

reactant | cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester | 288 mg | COC(=O)[C@@H]1[C@@H](C(N1)=O)N | C5H8N2O3
reactant | sodium hydrogen carbonate | 561 mg | C(O)([O-])=O.[Na+]
reactant | 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetyl chloride | 1.18 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)Cl)=NOC | C8H7Cl2N3O3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-4-carboylic acid methyl ester | COC(=O)[C@@H]1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C13H14ClN5O6S
